US08937071B2
A solution of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)acetamide (20 mg, 0.053 mmol), 4-bromo-2-(trifluoromethyl)benzonitrile (13.14 mg, 0.053 mmol), Pd2(dba)3 (4.81 mg, 5.26 μmol), Xantphos (3.04 mg, 5.26 μmol) and Cs2CO3 (34.3 mg, 0.105 mmol) in 1,4-dioxane (2 mL) was stirred at 120° C. for 1 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (20 mL) and washed with H2O (10 mL) and brine (10 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=2/1) to yield 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-cyano-3-(trifluoromethyl)phenyl)acetamide (12 mg, 0.015 mmol, 28.5% yield): 1H NMR (400 MHz, CD3OD) δ 8.25 (s, 1H), 8.01 (d, J=8.6 Hz, 1H), 7.90 (d, J=8.8 Hz, 1H), 7.84 (s, 1H), 7.59-7.48 (m, 1H), 7.43-7.28 (m, 5H), 7.23-7.15 (m, 2H), 6.46 (s, 1H), 5.34 (s, 2H), 4.09 (m, 2H), 3.73 (s, 3H), 1.28 (t, J=6.4 Hz, 3H); ES-LCMS m/z 550.1 (M+H).

reactant | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)acetamide | 0.053 mmol, 20 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=C(C=C(C=C1)CC(=O)N)F)OCC | C22H21FN2O3
reactant | 4-bromo-2-(trifluoromethyl)benzonitrile | 0.053 mmol, 13.14 mg | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | Xantphos | 5.26 μmol, 3.04 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.105 mmol, 34.3 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 5.26 μmol, 4.81 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-cyano-3-(trifluoromethyl)phenyl)acetamide | 0.015 mmol, 12 mg, 28.5% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)F)OCC | C30H23F4N3O3
